US05578636
Preparation of 3-hydroxy-4-(tetrahydro-2-pyranyloxy)-butyne
Acetylene gas was bubbled into tetrahydrofuran (30 ml) for 30 minutes. Ethyl magnesium bromide (25 ml) was added. 2-(Tetrahydro-2-pyranyloxy)-acetaldehyde (5.0 g, 0.035 mole) in tetrahydrofuran (25 ml) was then added. The reaction mixture was warmed to room temperature and stirred overnight. Saturated ammonium chloride aqueous solution (30 ml) was added to quench the unreacted acetylide and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, concentrated and separated by silica gel chromatography eluted with n-hexane/ethyl acetate (5:2) to give colorless oil (4.5 g, 76%).

reactant | 2-(Tetrahydro-2-pyranyloxy)-acetaldehyde | 0.035 mole, 5.0 g | O1C(CCCC1)OCC=O | C7H12O3
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-4-(tetrahydro-2-pyranyloxy)-butyne | 4.5 g, 76% | OC(C#C)COC1OCCCC1 | C9H14O3
